US07368578B2
To a mixture of ethyl (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-5-yl}-2-propenoate (0.73 g), tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (5 mL), and the mixture was heated under reflux for 1 hr. 1N Hydrochloric acid (5 mL) and water were added to neutralize the reaction mixture, and the precipitated crystals were collected by filtration to give (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-5-yl}-2-propenoic acid as colorless crystals (0.65 g, yield 94%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 191-192° C.

reactant | ethyl (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-5-yl}-2-propenoate | 0.73 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C(=C2)/C=C/C(=O)OCC)C2=CC=CC=C2)C=C1)OC)C | C31H29N3O7
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-5-yl}-2-propenoic acid | 0.65 g, yield 94% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C(=C2)/C=C/C(=O)O)C2=CC=CC=C2)C=C1)OC)C | C29H25N3O7
